US07981886B2
25.a) [trans-4-(benzoxazol-2-yl-hydroxy-methyl)-cyclohexyl]-carbamic acid tert-butyl ester
To a solution of 4-methoxy-benzoxazole (1490 mg, 10 mmol, obtained by methylation of 4-hydroxybenzoxazole (J. Med. Chem. (1987), 30, 62) in THF (60 ml) was added dropwise a solution of i-PrMgCl (5 ml, 2M solution in THF). The red mixture was stirred at 0° C. for 1 h before dropwise addition of (4-formyl-cyclohexyl)-carbamic acid tert-butyl ester (1360 mg, 6 mmol) dissolved in THF (10 ml). The reaction was stirred at 0° C. for 30 min and at RT for 1 h. The reaction mixture was quenched with aq. ammonium chloride solution and extracted EtOAc. The combined organic layers were dried over MgSO4 and concentrated under reduced pressure. The residue was purified by chromatograpy on SiO2 (hex/EtOAc 2:1, 1:1) affording 1300 mg (59%) of product as yellow oil.

reactant | i-PrMgCl | 2M, 5 ml | C(C)(C)[Mg]Cl
reactant | (4-formyl-cyclohexyl)-carbamic acid tert-butyl ester | 6 mmol, 1360 mg | C(C)(C)(C)OC(NC1CCC(CC1)C=O)=O | C12H21NO3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | [trans-4-(benzoxazol-2-yl-hydroxy-methyl)-cyclohexyl]-carbamic acid tert-butyl ester | 1300 mg, 59% | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(O)C=1OC2=C(N1)C=CC=C2)=O | C19H26N2O4
